US04497817
To a mixture of 30 ml of a 2 normal hydrochloric acid solution and 20 ml of methanol was added 4 g of 2-(m-acetamidophenyl)imidazo[2,1-b]benzothiazole and the mixture was refluxed for 2 hours. The reaction mixture was concentrated under reduced pressure to form solid materials, which were recrystallized from ethanol to provide 4.2 g of 2-(m-aminophenyl)imidazo[2,1-b]benzothiazole di-hydrochloride hemihydrate.

reactant | hydrochloric acid | Cl | ClH
reactant | 2-(m-acetamidophenyl)imidazo[2,1-b]benzothiazole | 4 g | C(C)(=O)NC=1C=C(C=CC1)C=1N=C2SC3=C(N2C1)C=CC=C3 | C17H13N3OS
solvent | methanol | 20 ml | CO | CH4O
product | 2-(m-aminophenyl)imidazo[2,1-b]benzothiazole di-hydrochloride hemihydrate | 4.2 g | O.Cl.Cl.NC=1C=C(C=CC1)C=1N=C2SC3=C(N2C1)C=CC=C3.NC=3C=C(C=CC3)C=3N=C1SC2=C(N1C3)C=CC=C2.Cl.Cl | InChI=1S/2C15H11N3S.4ClH.H2O/c2*16-11-5-3-4-10(8-11)12-9-18-13-6-1-2-7-14(13)19-15(18)17-12;;;;;/h2*1-9H,16H2;4*1H;1H2
